US07402672B2
3-(2-Ethyl-phenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-23
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide 6a-1 (1.0 equiv) in DMF with bis-(2-ethylphenyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-23 as an ivory colored solid. 1H NMR (DMSO-d6) δ 12.5 (bs, 1H), 8.42 (dd, 1H, J=1.5, 4.4 Hz), 8.1 (bs, 1H), 7.91 (dd, 1H, J=1.5, 8.1 Hz), 7.82 (bs, 1H), 7.30 (m, 1H), 7.2 (m, 1H), 7.05 (m, 1H), 6.95 (m, 1H), 6.5 (m, 1H), 2.9 (q, 2H), 1.3 (t, 3H). MS Obs 298.3 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(2-ethylphenyl)disulfide | 1.1 equiv | C(C)C1=C(C=CC=C1)SSC1=C(C=CC=C1)CC | C16H18S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(2-Ethyl-phenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | C(C)C1=C(C=CC=C1)SC1=C(NC=2C1=NC=CC2)C(=O)N | C16H15N3OS
